US08835644B2
Glutaric anhydride (1.0 g, 8.8 mmol), TEA (1.35 ml, 9.6 mmol) and cat. DMAP were dissolved in CH2Cl2 (7 mL). 2-Amino-5-nitrothiazole (1.4 g, 9.64 mmol) was then added and the solution was held at ambient temperature. After 18 hours, the solution was diluted with EtOAc (50 mL) and extracted with 1M NaOH (3×30 mL). The combined aqueous layers were washed with EtOAc (20 mL) then acidified with 12M HCl and subsequently extracted with EtOAc (5×20 mL). The combined organics were washed with brine (2×20 mL), dried (MgSO4), filtered and concentrated to dryness to yield 5-(5-nitrothiazol-2-ylamino)-5-oxopentanoic acid (1.13 g, 54%) as an orange solid. 1H NMR (300 MHz, DMSO-d6) δ 12.59 (bs, 1H), 8.59 (s, 1H), 2.57 (t, J=7.4 Hz, 2H), 2.28 (t, J=7.3 Hz, 2H), 1.82 (quint., J=7.3 Hz, 2H); 13C NMR (75 MHz, DMSO-d6) δ 174.0, 172.8, 161.8, 142.8, 141.7, 34.1, 32.7, 19.6; HRMS (ESI) calcd for [C8H9N3O5S+H]+ 260.0336. found 260.0344. Method B with 5-(5-nitrothiazol-2-ylamino)-5-oxopentanoic acid (30 mg, 0.12 mmol) afforded the title compound VPC161276 (23 mg, 46%) as an orange solid. 1H NMR (300 MHz, DMSO-d6) δ 8.61 (s, 2H), 2.61 (t, J=7.2 Hz, 4H), 1.97 (quint., J=7.0 Hz, 2H); 13C NMR (75 MHz, DMSO-d6) δ 172.8, 162.0, 142.8, 141.5, 34.0, 19.3; HRMS (ESI) calcd for [C11H10N6O6S2+H]+ 387.0176. found 387.0185.

reactant | Glutaric anhydride | 8.8 mmol, 1.0 g | C1(CCCC(=O)O1)=O | C5H6O3
reactant | 2-Amino-5-nitrothiazole | 9.64 mmol, 1.4 g | NC=1SC(=CN1)[N+](=O)[O-] | C3H3N3O2S
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 5-(5-nitrothiazol-2-ylamino)-5-oxopentanoic acid | 1.13 g, 54% | [N+](=O)([O-])C1=CN=C(S1)NC(CCCC(=O)O)=O | C8H9N3O5S
